US06903215B2
To a solution of 3.87 mL (3.87 mmol, 1.5 eq.) of potassium tert-butoxide (1.0 M solution in THF) and 542 μL (3.87 mmol, 1.5 eq.) of diisopropylamine, 1.55 mL (3.87 mmol, 1.5 eq) of n-butyl lithium (2.5 M solution in hexanes) was added dropwise at −75° C. The resulting mixture was allowed to warm to −50° C. over 15 minutes. Then the reaction mixture was treated with 860 mg (2.58 mmol) of 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro 1-methylbutyl]pyridine at −50° C. and the resulting mixture was stirred for 30 minutes at −50° C. The reaction mixture was cooled to −75° C. and treated with 482 μL (7.74 mmol) of methyl iodide and stirred for 1 minute. The reaction mixture was quenched with saturated NH4Cl solution, and the product was extracted into ether. The ethereal layer was washed with water and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was purified by flash chromatography to give 555 mg (62%) of 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro-1,1-dimethylbutyl]pyridine as a colorless oil.

reactant | potassium tert-butoxide | 3.87 mmol, 1.0 M, 3.87 mL, 1.5 eq. | CC(C)([O-])C.[K+]
reactant | diisopropylamine | 3.87 mmol, 542 μL, 1.5 eq. | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 3.87 mmol, 2.5 M, 1.55 mL, 1.5 eq | C(CCC)[Li]
reactant | 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro 1-methylbutyl]pyridine | 2.58 mmol, 860 mg | [Si](C)(C)(C(C)(C)C)OC(CC(C)C1=NC=CC=C1)C(F)(F)F | C16H26F3NOSi
reactant | methyl iodide | 7.74 mmol, 482 μL | CI | CH3I
product | 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro-1,1-dimethylbutyl]pyridine | 555 mg, 62% | [Si](C)(C)(C(C)(C)C)OC(CC(C)(C)C1=NC=CC=C1)C(F)(F)F | C17H28F3NOSi
